data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4307,4926,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[N-:19][N+:20]#[C:21][C:22]#[N:23]>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:19]([C:17]([NH:16][CH3:15])=[O:18])[N:20]=[C:21]2[C:22]#[N:23],water,298.15,16.805283824895223,-35.73918381978124
4751,5426,[CH3:10][O:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17]#[N:18])[C:19]#[N:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[NH:15][C:16]1([C:17]#[N:18])[C:19]#[N:20],water,298.15,21.254117159159104,-3.999242768923168
1291,1413,[CH3:10][NH:11][C:12](=[O:13])[C-:14]([CH3:15])[NH+:16]=[C:17]([C:18]#[N:19])[C:20]([CH3:21])=[O:22].[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:17]([C:18]#[N:19])([C:20]([CH3:21])=[O:22])[NH:16][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[CH3:15],water,298.15,22.13258594155036,-23.14397308075637
963,1046,[CH3:14][C:15](=[O:16])[CH:17]=[O+:18][C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([O:7][CH3:8])([CH:9]3[CH:10]=[CH:11][CH:12]1[O:13]3)[C:19]([C:20]#[N:21])([C:22]([CH3:23])=[O:24])[O:18][CH:17]2[C:15]([CH3:14])=[O:16],water,298.15,7.139217511759548,-40.30159175938565
1904,2109,[Br:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2.[CH3:9][O:10][C:11](=[O:12])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)=[N+:20]([CH3:21])[C-:22]([CH3:23])[C:24]([CH3:25])=[O:26]>>[Br:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:22]([CH3:23])([C:24]([CH3:25])=[O:26])[N:20]([CH3:21])[C:13]2([C:11]([O:10][CH3:9])=[O:12])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,28.563224162176624,-30.15644462285025
106,122,[CH3:11][C-:12]([C:13]#[N:14])[O+:15]=[CH:16][C:17]#[N:18].[CH3:1][O:2][C:3]#[C:4][c:5]1[cH:6][cH:7][cH:8][cH:9][cH:10]1>>[CH3:1][O:2][C:3]1=[C:4]([c:5]2[cH:6][cH:7][cH:8][cH:9][cH:10]2)[CH:16]([C:17]#[N:18])[O:15][C:12]1([CH3:11])[C:13]#[N:14],water,298.15,10.922584766154952,-76.35985828127484
4239,4849,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[C-:20]([CH3:21])[CH3:22]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:20]([CH3:21])([CH3:22])[N:18]([CH3:19])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,40.78268555966879,-5.425270845554191
4556,5196,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH:11]#[N+:12][C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)([c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[N:12]=[CH:11]2,water,298.15,15.46026213919436,-35.53294365199297
1620,1791,[CH2:13]=[NH+:14][C-:15]([C:16]([CH3:17])=[O:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:15]([C:16]([CH3:17])=[O:18])([c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1)[NH:14][CH2:13]3,water,298.15,12.548921409304915,-40.56541277381387
5264,5969,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19](=[O+:20][C-:21]([C:22](=[O:23])[NH:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:21]([C:22](=[O:23])[NH:24][CH3:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[O:20][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[c:32]1[cH:33][cH:34][cH:35][cH:36][cH:37]1,water,298.15,15.265342185665968,-26.94392132475038
2560,2840,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][C:12]([C:13]([F:14])([F:15])[F:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][O:26][C:27](=[O:28])[c:29]1[nH+:30][n-:31][c:32](=[O:33])[o:34]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([C:12]([C:13]([F:14])([F:15])[F:16])([C:17]([F:18])([F:19])[F:20])[CH2:21][CH2:22][CH2:23][CH2:24]1)[N:31]1[NH:30][C:29]2([C:27]([O:26][CH3:25])=[O:28])[O:34][C:32]1=[O:33],water,298.15,37.87860489179576,15.188876680641572
